Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was gonna kill myself."
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Patient is a  ___ year old woman with hx PTSD, major depressive 
disorder, recent discharged from an inpatient psychiatric 
hospitalization (discharged ___, who self presented to the 
ED with complaints of worsening mood, insomnia, and suicidal 
thoughts and actions. 

She shared that she tried to go to her job a ___ 
___ in ___, but when she got there she was so 
overwhelmed she experienced intense suicidal thoughts, went to 
the top of the parking garage and contemplated jumping off, she 
then brought herself to the ED. She says her therapist had 
encouraged her to come to the ED last night but she did not. 

She denies experiencing homicidal ideation, intent, or plan. She 
denies experiencing perceptual disturbances consistent w/ 
hallucinations, denies paranoid ideation.  Reports drinking 
alcohol, 2 drinks, last night, daily cannabis use, and smoking 2 
ppd tobacco. 

She reports being adherent to her medications that she was 
discharged on from the recent psychiatric hospitalization."

In the ED, patient remained in good behavioral control without
needing physical or chemical restraints.

On admission interview to the unit, the patient corroborated the 
above information with the following additions: The patient 
admitted that when she was on the rooftop prior to admission, 
she actually set on the edge of the roof and looked over the 
edge and thought about jumping. She said she had been going to 
the rooftop repeatedly rehearsing jumping off in her mind each 
time. She said
what kept her from jumping prior to admission was thoughts of 
her brother having to see her body. She endorses depressed mood, 
anhedonia, decreased appetite, insomnia, psychomotor agitation, 
and passive SI saying "I have no desire to live." The patient 
also reported increased startle response, flashbacks to previous 
traumas, feeling on edge and keyed up, fearful and paranoid. She 
said "It feels like I'm in a haunted house." She reported that
prior to her hospitalization at ___, what started her 
worsening of symptoms was the termination of her 
friendship/relationship with her therapist of ___ years in 
___. She states that from the beginning, she was both her
best friend and therapist, but that she had to terminate their 
relationship after the patient alleged that the therapist's 
husband was sexually inappropriate with the patient when they 
were drunk on a camping trip. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY
-Prior diagnoses: major depressive disorder, recurrent, severe
without psychotic features; PTSD.
During the family meeting on ___: family shared that pt 
experienced eating dos with restricting diet. Pt denied any hx 
of medical complications, denied hx of SIV, abusing laxatives.

-Hospitalizations: Recent psychiatric hospitalization at ___ ___ for depressed mood, suicidal
thoughts
On ___, pt also recalled that she was at ___ 
in ___.

-Psychiatrist: none currently 
-Therapist: ___ (new therapist)
-On ___, pt shared that ___, NP (___) was 
prescribing psychiatric meds.
-Medication trials: aripiprazole, Seroquel, risperidone, 
remeron.
-During the interviews on ___ and ___, she recalled hx 
of wellbutrin, aripiprazole, Remeron, Paxil, Celexa, Prozac, 
Effexor (experienced withdrawal sx's), Ambien, Geodon, Prazosin. 
She also tried Depakote 500mg twice dailys (didn't work, per 
pt). She denied any hx of Lithium, Lamictal, Zoloft.

-___ trials: denies
-Suicide attempts: Reports that she put a noose around her neck
but interrupted herself back in ___, denies other suicide
attempts prior to that.
-Self-injurious behavior: scratches herself  with her 
fingernails
when feeling emotionally overwhelmed, reported one incident of
cutting her leg with a razor when she was ___ which required
stiches
-Harm to others: denies
-Trauma: as per HPI
-Access to weapons: denies 

PAST MEDICAL HISTORY:
PNES-last seizure was during previous psychiatric
hospitalization, but said she had been at least a year without
any before that.
Per pt and family, pt had episodes passing out that were 
assessed as Vasovagal syncopy.
Chronic pain secondary to Lyme Disease
**PCP: ___
Denies history of head trauma.

 
Social History:
SUBSTANCE USE HISTORY:
-Tobacco: 2 ppd
-Alcohol: Reports almost daily use, usually no more than 2
drinks, denies withdrawal 
-Marijuana: daily

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: denies
-Substance Use Disorders: Mother, alcohol use 
-___ Attempts/Completed Suicides: denies
No known other hx of depression, bipolar disorder, schizophrenia
or death by suicide to her knowledge.

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
VITAL SIGNS:
T 99.7 PO; BP 120/76; HR 64; RR 16; sat 98% ra 

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 4 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: DOWB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 min, ___ with ___ grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "It always seems better from afar"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ year old woman appearing stated age, well
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor retardation, moderate psychomotor agitation with leg
bouncing, fidgeting, and playing with something in hands
-Attitude: Cooperative, engaged
-Mood: "Depressed"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: SI with plan but without intention, denies violent
ideation 
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

PHYSICAL EXAM ON DISCHARGE ON ___:
VS: 98.1; 118/74; 94; 17; 98% on RA

MSE: ___ yo alert woman, no signs of acute medical distress. No 
facial asymmetry. Freely moves all extremities. No involuntary 
movements. Still somewhat restless in foot (shaking her R leg 
while sitting). she said it is her habit. She is able to control 
it. Reports that restlessness in better. Unremarkable, steady 
gait. she has excoriations on her hand (from scratching day 
before).
She was alert, Ox4. Engaged in the interview. Maintained good 
eye contact. She was casually dressed and well groomed. Speech 
spontaneous, fluent in normal rate, decreased prosody, clear 
voice. TP linear and well organized. TC: no sx's of psychosis, 
denied A/V/H. She admits ongoing sense of hopelessness. However, 
she said that she had similar experience in the past (e.g., at 
age ___. She said that she was able to move forward with her 
life after that episode. She reports that her level of anxiety 
is somewhat better. She placed level of anxiety at ___ (it was 
higher on admission). She admits that she has ongoing suicidal 
ideation. She said that she has been dealing with it for long 
time (at least since ___. She placed intensity of suicidal 
ideation at level 5 on scale from 0-none to 10-getting ready to 
make suicide attempt. When asked what has been keeping her safe, 
she said her family. She would like to stay alive for them (esp 
for brother ___. She said she recognized during the family 
meeting that family cares about her. Re. self injurious 
behaviors, she said that she scratched herself to "relief the 
pressure". She actually felt better afterwards. She said that 
she has been engaging self injurious behaviors 
cutting/scratching since age ___. She said the only difference 
with last episode on ___ that she "was caught" by the 
staff. Ms. ___ recognized that increase of self injurious behavior 
is a sign of worsening of sx's. However, she believes that she 
should address it on the outpatient basis.
Ms. ___ reported that she plans to start partial hospital program  
on ___. She asked to fill out ___ paperwork for that.
 
Pertinent Results:
___ 11:27AM   WBC-9.6 RBC-3.58* HGB-11.8 HCT-35.4 MCV-99* 
MCH-33.0* MCHC-33.3 RDW-12.7 RDWSD-45.8
___ 11:27AM   NEUTS-70.8 ___ MONOS-7.4 EOS-1.9 
BASOS-0.3 IM ___ AbsNeut-6.76* AbsLymp-1.82 AbsMono-0.71 
AbsEos-0.18 AbsBaso-0.03
___ 11:27AM   PLT COUNT-276
___ 11:14AM   GLUCOSE-96 UREA N-8 CREAT-0.7 SODIUM-143 
POTASSIUM-4.2 CHLORIDE-107 TOTAL CO2-24 ANION GAP-12
___ 11:14AM   estGFR-Using this
___ 11:14AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:57AM URINE  UCG-NEGATIVE
___ 10:57AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:57AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:57AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

___ 06:22AM BLOOD ALT-60* AST-43* AlkPhos-73 TotBili-0.3
___ 06:22AM BLOOD %HbA1c-4.9 eAG-94
___ 06:22AM BLOOD Triglyc-136 HDL-64 CHOL/HD-3.1 
LDLcalc-106
___ 06:22AM BLOOD TSH-2.___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11), she later signed a 3 day notice on 
___ which expired on ___. At this time given there was 
no substantiated evidence that patient was a harm to herself or 
others patient was discharged from the hospital. They were also 
placed on 15 minute checks status on admission, but were changed 
to 5 minute checks given concerns for self harm behaviors and 
collateral, patient was moved back to 15 minute checks 
afterwards and remained on that level of observation throughout 
while being unit restricted.

2. PSYCHIATRIC:
#) ___ is a ___ y/o female with a past psychiatric history of 
PTSD, MDD, and recent discharge from an inpatient psychiatric 
unit (___), who self presented to the ED with complaints of 
worsening mood, insomnia, and suicidal thoughts, plan and 
intent. 
 
On admission ___ described worsening mood and anxiety for the 
few months in the setting of several recent stressors, her main 
one being the recent break with her best friend ___ who was 
also her therapist for the past ___ years. Her and ___ were very 
close and would take trips together, every time ___ was distress 
___ would be her point person. However on a camping trip with 
___ and ___ husband ___ was assaulted by ___ ‘s husband, which 
caused her PTSD sx's to re-emerge and re experience trauma. She 
noted that after this incident she was hospitalized for 2 weeks 
at ___ were her therapist was filed on for 
concerns of boundary crossings. ___ feels guilty regarding these 
turn of events. She endorsed feelings of worthlessness, guilt, 
hopelessness, helplessness, as well as insomnia was only 
sleeping ___ hours a night, severe anxiety, hyper-vigilance, 
avoidance, flash backs, nightmares, and suicidal ideation with 
plan which she developed and elaborate during her last 
admission. She stated during her admission at ___ 
___ she was able to develop a to do list before she hung 
herself. She had already tied a rope in a tree in her back yard, 
which was the reason for her last inpatient hospitalization. The 
police never found this rope, but she continued to intend to use 
this method to end her life. The list was composed of things her 
family needed to take care of before she committed suicide. She 
admitted to lying to the inpatient team stating she was no 
longer suicidal, and went home with the intent to kill herself. 
She cleaned her room, and began to make her list, but could not 
go through with it because her parents were in her home at the 
time. 

While at work, she works as a ___ but must park in a 9 story 
parking garage, patient admitted to thinking of jumping off the 
ledge. She notes at this time while looking over the ledge she 
felt peace. She endorsed feeling her family would be better off 
with out her, and that she was a burden to everyone. On MSE 
patient had moderate psychomotor agitation as well as pronounced 
startle response, her affect was restricted and anxious, and she 
continued to endorse suicidal ideation. Clinically the 
differential is broad there is clearly evidence for a diagnosis 
of PTSD given her trauma history and symptoms, however there 
appears to be a separate mood component.  It is unclear if 
patient has a mayor depressive mood disorder or if she could 
have an underlying bipolar affective disorder mixed episode. 
Given her multiple failed trials with SSRI’s including ( Celexa, 
Cymbalta, Effexor, Remeron, Paxil, Welbutrin) . She does clearly 
have a depressive mood disorder but the etiology remains 
unclear. 

Given concerns for activating effects of Cymbalta patients dose 
was decreased from 120 mg to 60 mg on ___ her Zyprexa was 
decreased from 10 mg BID to 15 mg QHS due to concerns of 
akathesia. On ___ patient was started on clonidine to 
target her PTSD symptoms.  On ___ patients trazodone was 
increased to 200 mg QHS to aid with insomnia , and her buspar 
was increased to 20 mg TID to aid with anxiety . Patient 
tolerated these medication changes well but continued to endorse 
minimal change in her presenting symptoms. 

On ___ a family meeting was held with father, mother, and 
brother present as well as primary inpatient team to discuss 
patients diagnosis, management, providing psychoeducation as 
well as discuss safety and disposition planning. During this 
meeting family noted concerns for patients worsening mood and 
inability to share her feelings with them in the past, leading 
to them not being able to provide adequate supports. Family was 
educated on possible differential diagnosis, and medication 
changes were discussed. At this meeting patient was agreeable to 
trial Lamictal for mood stabilization, therefore on ___ 
patient was started on 25 mg of lamictal daily.  Patient also 
agreed to referral to outpatient partial hospitalization 
program, as well as participation in psychological testing in 
order to clarify her diagnosis. During this meeting patient 
endorsed she no longer felt suicide was an option and was able 
to note how her disease had affected her family. 

At time of discharge she noted improvements in her sleep and 
somewhat in her anxiety, she also denied suicidal ideation as 
she felt this would negatively affect her family. She recognized 
during the family meeting that her relatives care about her. On 
MSE her psychomotor agitation had improved, and self reported 
mood was noted to be less anxious, she endorsed being motivated 
to continue to work on her mood though intensive outpatient 
therapy. Given patient signed a 3 day notice, which expired on 
___.
On ___, another family meeting was held with pt and her 
father. Ms. ___ continued to ask to be discharged. Inpatient 
team has hoped that pt agrees to stay until ___. This way, 
she could have smooth transition to the partial hospital program 
in addition to therapeutic milieu, opportunity to complete 
psychological testing and re assess effect from medication 
regimen.
However, Ms. ___ expressed concern that staying on the psychiatric 
floor has triggering her memories of traumatic experiences. 
E.g., she was upset to observe some disorganized behaviors of 
another male client.
Pt's father was involved in the conversation and discussion. 
Family recognizes the severity of issue. Pt and family agreed 
that pt will stay with her parents for the next week. Pt and 
father are planning to work together on renovating patient's 
house in ___. Pt and family were educated about risk of EtOH: 
rec'd that pt refrains from EtOH as it can increase depression, 
impulsivity and increase risk for suicide.

We discussed emergency steps that pt and her family could take: 
call ___ reach out to ___ Emergency Services Team 
___ contact pt's providers.
Option of filing for involuntary treatment (sect 7, 8, 8b) was 
considered and rejected. While pt is at high risk long term, 
there is no evidence for imminent risk. Also, that step will 
likely , retraumatize pt and negatively affect pt's motivation 
to treat her serious but long standing condition.

Pt reported that intensity of suicidal ideation actually 
decreased.
Given patient was no longer endorsing suicidal plan or intent; 
team felt she did not pose an imminent risk to self. Family was 
aware of clinical impression and was educated on importance of 
providing supervision after discharge. Patient was provided 
referral to a partial hospitalization program, outpatient 
psychiatry, therapy, and primary care for medical follow-up. 

3. SUBSTANCE USE DISORDERS:
#) tobacco use disorder  During inpatient stay were able to hold 
discussion regarding smoking cessation and discharged with 
prescription for a nicotine patch

# Cannabis use disorder Patient endorses use of medical 
marijuana for treatment of her chronic pain, patient was 
counseled on the effects of marijuana on mood and sleep. Was 
encouraged to abstain from smoking cannabis and work with her 
outpatient providers to continue to pursue alternate forms of 
treatment. 

#Alcohol use Patient endorsed daily dinking no more than 2 
drinks a night, there was no evidence of withdrawal during 
hospitalization, and alcohol serum level was undetectable on 
admission. Patient was counseled on the effects of alcohol on 
her mood, sleep, general health, impulsivity. Was encouraged to 
abstain from use of substances and continue to work with her 
outpatient providers to pursue alternate forms of treatment. 

4. MEDICAL
#) Chronic Pain 
-continue Gabapentin 800 mg QID 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  She was 
able to participate in some groups, and was appropriate and 
insightful. She kept mostly isolated in her room and avoided 
more crowded portions of the milieu during her hospital stay. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient provided verbal consent to obtain collateral from 
Mother, Father, Brother who were all involved in disposition and 
safety planning, which was developed during family meeting on 
___. 

#) INTERVENTIONS
- Medications: Lamictal, Clonidine, Buspar, trazodone, Cymbalta, 
Lamictal. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: patient was provided with referral 
to outpatient PHP, outpatient psychiatry, and individual therapy 
at discharge 
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
patient was encouraged to attend groups which involved 
development of coping skills, DBT, and CBT skills as well as 
mindfulness.
-Guardianships: none 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication serious life threatening rash, EPS 
symptoms including TD,  akathesia, acute dystonic reaction, day 
time sedation, orthostasis, hypotension, serious cardiac risk 
such as QTc prolongation, increase in suicidal ideation , and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.   We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon endorsement of 
suicidal ideation with plan and intent.  Their static factors 
noted at that time include history of abuse, chronic mental 
illness, history of substance abuse, recent discharge from an 
inpatient psychiatric unit, Caucasian race, marital status, 
chronic pain.   The modifiable risk factors were also addressed 
at that time including suicidal ideation with intent/plan, 
hopelessness, social withdrawal, limited social supports, 
limited coping skills, insomnia, lack of purpose, active 
substance abuse/intoxication, polarized thinking, and recent 
personal loss. Finally, the patient is being discharged with 
many protective risk factors, help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, 
good coping skills, good problem-solving skills, lack of 
suicidal ideation, no history of substance use disorder, and 
strong social supports. Based on the totality of our assessment 
at this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

Our Prognosis of this patient is, guarded.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 15 mg PO TID 
2. DULoxetine 120 mg PO QHS 
3. Gabapentin 800 mg PO QID 
4. melatonin 3 mg oral QHS 
5. Nicotine Patch 21 mg TD DAILY 
6. OLANZapine 10 mg PO BID 
7. TraZODone 100 mg PO QHS:PRN insomnia 
8. HydrOXYzine 25 mg PO Q6H:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  CloNIDine 0.1 mg PO QHS  
3.  LamoTRIgine 25 mg PO DAILY 
RX *lamotrigine [Lamictal] 25 mg one tablet(s) by mouth at 
bedtime Disp #*10 Tablet Refills:*0 
4.  BusPIRone 20 mg PO TID 
RX *buspirone 10 mg two tablet(s) by mouth three times a day 
Disp #*60 Tablet Refills:*0 
5.  DULoxetine 60 mg PO DAILY  
6.  OLANZapine 15 mg PO QHS severe depression 
RX *olanzapine 15 mg one tablet(s) by mouth at bedtime Disp #*10 
Tablet Refills:*0 
7.  Gabapentin 800 mg PO QID  
8.  HydrOXYzine 25 mg PO Q6H:PRN anxiety 
RX *hydroxyzine HCl 25 mg one tablet by mouth every 6 hrs PRN 
anxiety Disp #*20 Tablet Refills:*0 
9.  melatonin 3 mg oral QHS  
10.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 21 mg/24 hour one patch daily. Take 
off before sleep Disp #*14 Patch Refills:*0 
11.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PTSD
Major depressive disorder recurrent
R/o Bipolar disorder, type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___